US05196534
5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone
1-Methyl-1-phenylhydrazine (21.6 g) was added to a suspension of 2,4-piperidinedione (20.0 g) in industrial methylated spirit (100 ml) at 20°-25° under nitrogen. The resultant solution was stirred for 3 h at room temperature. Water (300 ml) was added and the resulting suspension was filtered to give the title compound (34.4 g) as a solid, m.p. 180.5°-182°.

reactant | 1-Methyl-1-phenylhydrazine | 21.6 g | CN(N)C1=CC=CC=C1 | C7H10N2
reactant | 2,4-piperidinedione | 20.0 g | N1C(CC(CC1)=O)=O | C5H7NO2
solvent | Water | 300 ml | O | H2O
product | 5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone | 34.4 g | CN(NC1=CC(NCC1)=O)C1=CC=CC=C1 | C12H15N3O
